*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/3.30e-01[uF]/63[V]
* Murata P/N :GRM155R61J334ME01
* Property : C = 3.30e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61J334ME01 Port1 Port2
C01 Port1 N01 2.46e-07
R01 Port1 N01 1.52e+08
L02 N01 N02 2.24e-10
R03 N02 N03 1.42e-02
C04 N03 N04 1.30e-05
R04 N03 N04 1.44e+02
C05 N04 N05 1.99e-05
R05 N04 N05 1.78e+01
C06 N05 N06 1.60e-05
R06 N05 N06 4.16e+00
C07 N06 N07 1.31e-05
R07 N06 N07 7.94e-01
C08 N07 N08 8.84e-06
R08 N07 N08 1.59e-01
C09 N08 N09 6.11e-06
R09 N08 N09 3.25e-02
L10 N09 N10 2.60e-11
R10 N09 N10 1.42e-01
L11 N10 N11 9.01e-11
R11 N10 N11 4.49e-02
C12 N11 N12 2.02e-06
L12 N11 N12 1.04e-11
R12 N11 N12 8.95e-03
C13 N12 N13 3.03e-07
L13 N12 N13 2.96e-11
R13 N12 N13 1.65e-02
C14 N13 Port2 3.45e-11
L14 N13 Port2 1.94e-11
R14 N13 Port2 1.55e+00
.ENDS GRM155R61J334ME01
